US09079866B2
5-[2′-(1,1-Dioxidoisothiazolidin-2-yl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine
Title compound was prepared using conditions analogous to those described in Example 1 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-(2-bromophenyl)isothiazolidine 1,1-dioxide. MS (ESI): mass calcd. for C19H17FN4O2S, 384.11; m/z found, 385.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.62-8.58 (m, 1H), 8.12 (d, J=1.5, 1H), 7.99 (m, 1H), 7.76-7.71 (m, 1H), 7.49-7.45 (m, 1H), 7.46-7.38 (m, 4H), 4.69 (s, 2H), 3.30-3.04 (m, 4H), 2.39-2.11 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-(2-bromophenyl)isothiazolidine 1,1-dioxide | BrC1=C(C=CC=C1)N1S(CCC1)(=O)=O | C9H10BrNO2S
product | 5-[2′-(1,1-Dioxidoisothiazolidin-2-yl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine | O=S1(N(CCC1)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)=O | C19H17FN4O2S
